US07622583B2
(5-Chloro-3-nitro-pyridin-2-yl)-(2,4-dimethyl-pyridin-3-yl)-methanol
To a stirred solution of 5-Chloro-2-iodo-3-nitro-pyridine (2.5 g, 8.77 mmol) in anhydrous THF (20 mL) at −78° C. was added 2 M phenylmagnesiumchloride in THF (4.8 mL, 9.6 mmol) and stirred at the same temperature for 30 minutes and then 2,4-Dimethyl-pyridine-3-carbaldehyde (1.82 g, 13.15 mmol) was added in one portion and the progress of the reaction was followed by LCMS. The reaction mixture was warmed to room temperature and stirred overnight (18 h). It was then quenched with saturated aqueous NH4Cl (10 mL), and extracted with EtOAc. The combined extracts were washed with aqueous NaHCO3, brine, and then dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography to (5-Chloro-3-nitro-pyridin-2-yl)-(2,4-dimethyl-pyridin-3-yl)-methanol. Mass spectrum m/z: 294.4 (M+H).

reactant | 5-Chloro-2-iodo-3-nitro-pyridine | 8.77 mmol, 2.5 g | ClC=1C=C(C(=NC1)I)[N+](=O)[O-] | C5H2ClIN2O2
reactant | phenylmagnesiumchloride | 2 M | C1(=CC=CC=C1)[Mg]Cl
reactant | 2,4-Dimethyl-pyridine-3-carbaldehyde | 13.15 mmol, 1.82 g | CC1=NC=CC(=C1C=O)C | C8H9NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 9.6 mmol, 4.8 mL | C1CCOC1 | C4H8O
product | (5-Chloro-3-nitro-pyridin-2-yl)-(2,4-dimethyl-pyridin-3-yl)-methanol | ClC=1C=C(C(=NC1)C(O)C=1C(=NC=CC1C)C)[N+](=O)[O-] | C13H12ClN3O3
